US06624262B2
Polymerization of Dimethylamino Methacrylate
7 ml DMAEMA (6.531 g; 41.5 mmol), 0.0206 g CuCl (0.208 mmol) and 0.0658 g BiPy (0.421 mmol) were mixed and stirred for 10 minutes. A clear brown solution was formed. To this solution, a solution of 0.1355 g (0.205 mmol) azo-initiator 2 in 7 ml water was added. The temperature of the experiment was maintained at 55° C. The progress of the polymerization is shown in Table 7.

reactant | DMAEMA | 41.5 mmol, 7 ml, 6.531 g | CC(=C)C(=O)OCCN(C)C | C8H15NO2
reactant | BiPy | 0.421 mmol, 0.0658 g | C1=CC=NC(=C1)C2=CC=CC=N2 | C10H8N2
solvent | water | 7 ml | O | H2O
catalyst | CuCl | 0.208 mmol, 0.0206 g | Cl[Cu]
product | Dimethylamino Methacrylate | C(C(=C)C)(=O)ON(C)C | C6H11NO2
